US07834039B2
To a solution of (4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)methanol (0.100 g, 0.290 mmol) in THF (1.5 ml) was added DBU (0.048 ml, 0.319 mmol) followed by diphenyl phosphorazidate (0.069 ml, 0.319 mmol). After about 15 h the reaction mixture was poured into ether and saturated NaHCO3. The organic layer was separated, washed with brine, dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel (eluting with EtOAc/Hep) to provide 5-(4-(azidomethyl)phenyl)-3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazole (0.066 g, 60%) as a colorless solid. LCMS (Table 1, Method c) Rt=3.22 min, m/z 370 (M+H)+

reactant | (4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)methanol | 0.290 mmol, 0.100 g | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)CO | C18H17ClN2O3
reactant | DBU | 0.319 mmol, 0.048 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | diphenyl phosphorazidate | 0.319 mmol, 0.069 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-(4-(azidomethyl)phenyl)-3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazole | 0.066 g, 60% | N(=[N+]=[N-])CC1=CC=C(C=C1)C1=NC(=NO1)C1=CC(=C(C=C1)OC(C)C)Cl | C18H16ClN5O2
